US09315521B2
6-methyl-2-[(quinoxalin-6-ylmethyl)sulfanyl]pyrimidin-4-ol dihydrochloride
To a mixture of 6-methyl-2-[(quinoxalin-6-ylmethyl)sulfanyl]pyrimidin-4-ol (650 mg, 2.3 mmol) in MeOH (3 mL) was added 4 M HCl/dioxane (3 mL, 12.0 mmol). The mixture became clear, and a solid precipitated. The solid material was recovered by filtration, washed with diethyl ether (2×20 mL), and dried in vacuo, affording the title compound (797 mg, 97% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.25 (s, 3H), 4.66 (s, 2H), 6.11 (s, 1H), 7.94 (dd, 1H, J=2.0 Hz, 8.6 Hz), 8.07 (d, 1H, J=8.6 Hz), 8.16 (d, 111, J=1.7 Hz), 8.94 (m, 2H); M+285.

reactant | 6-methyl-2-[(quinoxalin-6-ylmethyl)sulfanyl]pyrimidin-4-ol | 2.3 mmol, 650 mg | CC1=CC(=NC(=N1)SCC=1C=C2N=CC=NC2=CC1)O | C14H12N4OS
reactant | HCl dioxane | 12.0 mmol, 4 M, 3 mL | Cl.O1CCOCC1
solvent | MeOH | 3 mL | CO | CH4O
product | 6-methyl-2-[(quinoxalin-6-ylmethyl)sulfanyl]pyrimidin-4-ol dihydrochloride | 797 mg, 97% yield | Cl.Cl.CC1=CC(=NC(=N1)SCC=1C=C2N=CC=NC2=CC1)O | InChI=1S/C14H12N4OS.2ClH/c1-9-6-13(19)18-14(17-9)20-8-10-2-3-11-12(7-10)16-5-4-15-11;;/h2-7H,8H2,1H3,(H,17,18,19);2*1H
